US06295167B1
20.0 parts by weight of methacrylamide trimethylammonium hydrochloride as a main monomer of a polymer gel for a light scattering member was added to 33 parts by weight of distilled water. A solution formed by dissolving 0.1 part by weight of ammonium persulfate in 2 parts by weight of distilled water, 10.0 parts by weight of titanium oxide having an average diameter of 0.2 μm (refractive index: 2.7) as a light scattering material and 0.1 part by weight of N,N′-methylenebisacrylamide as a crosslinking agent were added to the resulting solution, to prepare a uniform solution by sufficiently stirring. The resulting dispersion solution was added, in a beaker, to a solution obtained by dissolving 1.0 part by weight of a sorbitol series surface active agent (Sorgen 50, trade name, produced by Dai-ichi Kogyo Seiyaku Co., Ltd.) as a dispersion stabilizer in 100 parts by weight of cyclohexane, followed by substituting with nitrogen, and then emulsified by stirring at a high speed with a rotary stirring blade at 10,000 rpm for 10 minutes.

reactant | methacrylamide trimethylammonium hydrochloride | Cl.C[NH+](C)C.C(C(=C)C)(=O)N
reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | N,N′-methylenebisacrylamide | C(NC(C=C)=O)NC(C=C)=O | C7H10N2O2
reactant | sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | water | O | H2O
solvent | titanium oxide | [O-2].[Ti+4].[O-2]
product | Sorgen 50 | CCCCCCCCCCCCCCCCCC(=O)OCC([C@@H]1[C@H]([C@@H](CO1)O)O)O | C24H46O6
